US05245046
Methyl α-[3-(trifluoromethyl)benzylamino]-1-benzylindole-3-acetate
To a magnetically stirred solution of 100 ml of methanol cooled in an ice-acetone bath at ca. -15° C., was treated dropwise with acetyl chloride (27.3 g, 350 mmol, 35 eq) over a six-minute period as a convenient way to generate HCl in situ. The solution was stirred at ambient temperature for 45 minutes, then solid α-[3-(trifluoromethyl)benzylamino]-1-benzylindole-3-acetic acid was added which formed a dark rose colored solution. After stirring for 22 hours the reaction mixture was poured into 100 mL of saturated NaHCO3 solution containing 100 mL of crushed ice, basified with additional solid NaHCO3 powder until the rose color dissipated and extracted twice with ether. The combined organic extracts were washed with saturated NaHCO3 (1×75 mL), saturated brine (1×100 mL), dried with anhydrous NaSO4 and concentrated in vacuo. Flash chromatography with 100 g of silica gel using ethyl acetate-hexane (1:2) afforded 4.07 g of the title compound as a golden oil.

reactant | acetyl chloride | 350 mmol, 27.3 g, 35 eq | C(C)(=O)Cl | C2H3ClO
reactant | HCl | Cl | ClH
reactant | α-[3-(trifluoromethyl)benzylamino]-1-benzylindole-3-acetic acid | FC(C=1C=C(CNC(C(=O)O)C2=CN(C3=CC=CC=C23)CC2=CC=CC=C2)C=CC1)(F)F | C25H21F3N2O2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | Methyl α-[3-(trifluoromethyl)benzylamino]-1-benzylindole-3-acetate | 4.07 g | FC(C=1C=C(CNC(C(=O)OC)C2=CN(C3=CC=CC=C23)CC2=CC=CC=C2)C=CC1)(F)F | C26H23F3N2O2
